US07786132B2
(iv) 1-(2-(4-(5-(4-Fluorophenylsulfonyl)-3-phenylthiophen-2-yl)pyrimidin-2-ylamino)-ethyl)-5,5-dimethylimidazolidine-2,4-dione
1-(2-(4-(5-(4-Fluorophenylthio)-3-phenylthiophen-2-yl)pyrimidin-2-ylamino)ethyl)-5,5-dimethylimidazolidine-2,4-dione (0.100 g, 0.188 mmol) was dissolved in acetone (3.0 mL) and treated with a solution of Oxone (0.346 g, 0.563 mmol) in H2O (1.5 mL). The reaction mixture was allowed to stir at ambient temperature overnight and then diluted with 10 mL H2O. The suspension was filtered and the precipitate washed with additional portions of H2O. The solid was air-dried and then purified by flash chromatography, eluted with 1-10% MeOH/dichloromethane to afford the product as a bright yellow solid. MS (M+H)+ 566.

reactant | 1-(2-(4-(5-(4-Fluorophenylthio)-3-phenylthiophen-2-yl)pyrimidin-2-ylamino)ethyl)-5,5-dimethylimidazolidine-2,4-dione | 0.188 mmol, 0.100 g | FC1=CC=C(C=C1)SC1=CC(=C(S1)C1=NC(=NC=C1)NCCN1C(NC(C1(C)C)=O)=O)C1=CC=CC=C1 | C27H24FN5O2S2
reactant | Oxone | 0.563 mmol, 0.346 g | OOS(=O)[O-].[K+]
reactant | H2O | 1.5 mL | O | H2O
reactant | H2O | 10 mL | O | H2O
solvent | acetone | 3.0 mL | CC(=O)C | C3H6O
product | 1-(2-(4-(5-(4-Fluorophenylsulfonyl)-3-phenylthiophen-2-yl)pyrimidin-2-ylamino)-ethyl)-5,5-dimethylimidazolidine-2,4-dione | FC1=CC=C(C=C1)S(=O)(=O)C1=CC(=C(S1)C1=NC(=NC=C1)NCCN1C(NC(C1(C)C)=O)=O)C1=CC=CC=C1 | C27H24FN5O4S2
